US06747023B1
1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-2-yl)pyrimidin-2-yl]carbonyl]piperazine
At room temperature, 1-[(5-bromopyrimidin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine (500 mg) and (pyridin-2-yl)tributyltin (418 mg) were dissolved in N,N-dimethylformamide (10 ml). To the reaction mixture was added tetrakis(triphenylphosphine)palladium(0) (69 mg), followed by stirring at 100° C. for 9 hours. After cooling to room temperature, ethyl acetate and ammonia solution were added. The resulting mixture was separated by ethyl acetate and water. The organic layer was dried over anhydrous sodium sulfate. The filtrate was concentrated and the residue was purified by chromatography on a silica gel column (4% methanol—methylene chloride). The resulting fraction was added with ethanol, followed by concentration. Diethyl ether was then added to the concentrate. Colorless powder thus precipitated was collected by filtration and dried, whereby the free form (254 mg) of the title compound was obtained. The resulting free form was dissolved in methylene chloride, followed by the addition of 1N hydrochloric acid (in ethanol) to make the solution acidic. After concentration, ethyl acetate and diethyl ether were added, followed by concentration. Colorless powder thus precipitated was collected by filtration and dried, whereby the title compound was obtained.

reactant | 1-[(5-bromopyrimidin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | 500 mg | BrC=1C=NC(=NC1)C(=O)N1CCN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl | C17H15BrClN5O3S
reactant | (pyridin-2-yl)tributyltin | 418 mg | N1=C(C=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonia | N | H3N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[(5-Chloroindol-2-yl)sulfonyl]-4-[[5-(pyridin-2-yl)pyrimidin-2-yl]carbonyl]piperazine | 254 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=NC=C(C=N1)C1=NC=CC=C1 | C22H19ClN6O3S
